US05075461
3-Benzoyloxy-2-methyl-4-pyrone (19.00 g, 82.6 mmol) is stirred at 20°-25° C. for 3 hours with 124 ml (248 mmol) of 2N sodium hydroxide solution. The solution is adjusted to pH 6.5 and extracted three times with 100 ml of dichloromethane each time. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator. The crude product is recrystallized in acetone and gives 7.21 g (69.3%) of 3-hydroxy-2-methyl-4-pyrone, m.p. 157°-158° C.

reactant | 3-Benzoyloxy-2-methyl-4-pyrone | 82.6 mmol, 19.00 g | C(C1=CC=CC=C1)(=O)OC1=C(OC=CC1=O)C | C13H10O4
reactant | sodium hydroxide | 248 mmol, 2N, 124 ml | [OH-].[Na+]
product | 3-hydroxy-2-methyl-4-pyrone | 7.21 g, 69.3% | OC1=C(OC=CC1=O)C | C6H6O3
